US05362733
5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-thiazolidin-2,4-dione
A solution containing 0.59 g (0.005 mol) of thiazolidine-2,4-dione, 0.92 g (0.005 mol) of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.05 ml of piperidine in 5 ml of acetic acid was heated for 7-8 h at 80° C. The crystalls were filtered and washed with ethanol. Yield 1.0 g (72%), mp 295°-298° C.

reactant | thiazolidine-2,4-dione | 0.005 mol, 0.59 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.005 mol, 0.92 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-thiazolidin-2,4-dione | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C1C(NC(S1)=O)=O | C10H6N2O6S
